US07166617B2
By using 1-phenylimidazolidin-2-one obtained by the method described in literature (J. Org. Chem., 1951, 16, 1829) and t-butyldimethylsilyl 2-bromoethyl ether obtained by the method of Example 92a, 1-[2-(t-butyldimethylsilyloxy)ethyl]-3-phenylimidazolidin-2-one was obtained as crude product by similar procedures to those of Example 151a. By using the resulting product, the title compound was obtained as colorless solid by similar procedures to those of Example 92b (yield: 75%).

reactant | 1-phenylimidazolidin-2-one | C1(=CC=CC=C1)N1C(NCC1)=O | C9H10N2O
reactant | t-butyldimethylsilyl 2-bromoethyl ether | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
product | 1-[2-(t-butyldimethylsilyloxy)ethyl]-3-phenylimidazolidin-2-one | [Si](C)(C)(C(C)(C)C)OCCN1C(N(CC1)C1=CC=CC=C1)=O | C17H28N2O2Si
